US06730681B2
Triethylamine (5.6 ml, 40 mmol) was added to a stirred solution of 3-(2-fluorophenyl)-[1,2,3]triazolo[1,5-α]quinazolin-5(4H)-one (5.47 g, 19.5 mmol) and p-toluenesulfonyl chloride (3.82 g, 20 mmol) in dry N,N-dimethylformamide (100 ml) at room temperature under nitrogen. The brown suspension was stirred for 18 h then diluted with water (800 ml). The yellow precipitate was collected, washed sequentially with water and diethyl ether, then dried in vacuo to give 3-(2-fluorophenyl)-5-(4-methylbenzenesulfonyloxy)-[1,2,3]triazolo[1,5-α]quinazoline (8.65 g, 100%). δH (400 MHz; CDCl3) 2.42 (3H, s), 7.23 (2H, d, J=8), 7.28-7.34 (2H, m), 7.47-7.50 (1H, m), 7.76 (1H, dd, J=8 and 8), 7.87 (1H, ddd, J=7, 7 and 2), 8.04-8.08 (3H, m), 8.30 (1H, dd, J=8 and 1), 8.70 (1H, d, J=8); m/z (ES+) 435 (M+H+).

reactant | Triethylamine | 40 mmol, 5.6 ml | C(C)N(CC)CC | C6H15N
reactant | 3-(2-fluorophenyl)-[1,2,3]triazolo[1,5-α]quinazolin-5(4H)-one | 19.5 mmol, 5.47 g | FC1=C(C=CC=C1)C=1N=NN2C1NC(C1=CC=CC=C21)=O | C15H9FN4O
reactant | p-toluenesulfonyl chloride | 20 mmol, 3.82 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | 800 ml | O | H2O
product | 3-(2-fluorophenyl)-5-(4-methylbenzenesulfonyloxy)-[1,2,3]triazolo[1,5-α]quinazoline | 8.65 g, 100% | FC1=C(C=CC=C1)C=1N=NN2C1N=C(C1=CC=CC=C21)OS(=O)(=O)C2=CC=C(C=C2)C | C22H15FN4O3S
